US07932272B2
2-Amino-6-methoxymethyl-nicotinic Acid
Lithium hydroxide monohydrate (1.2 g, 29 mmol) was added to a mixture of 2-amino-6-methoxymethyl-nicotinic acid methyl ester described in Preparation Example A-10 (2.9 g, 15 mmol), tetrahydrofuran (30 mL), methanol (7.5 mL), and water (7.5 mL), which was then stirred overnight at room temperature. Acetic acid (1.7 mL, 29 mmol) was added to the reaction solution and the solvent was evaporated in vacuo. After filtration using silica gel (methanol/ethyl acetate=1/3) and the solvent was evaporated in vacuo, the residue was washed with water, and the title compound (2.1 g, 12 mmol, 80%) was obtained as a pale yellow solid.

reactant | Lithium hydroxide monohydrate | 29 mmol, 1.2 g | O.[OH-].[Li+]
reactant | 2-amino-6-methoxymethyl-nicotinic acid methyl ester | COC(C1=C(N=C(C=C1)COC)N)=O | C9H12N2O3
reactant | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
reactant | Acetic acid | 29 mmol, 1.7 mL | C(C)(=O)O | C2H4O2
solvent | water | 7.5 mL | O | H2O
solvent | methanol | 7.5 mL | CO | CH4O
product | 2-Amino-6-methoxymethyl-nicotinic Acid | 12 mmol, 2.1 g, 80% | NC1=C(C(=O)O)C=CC(=N1)COC | C8H10N2O3
